data/mechanisms/records/IMS8-EQ8.115a.json
{"mechanism_id": "IMS8-EQ8.115a", "species": [{"species_id": "steroid_tms_molecular_ion", "mapped_smiles": "[CH3:19][C:10]12[CH2:1][CH2:2][C:3](=[O+:25])[CH:4]=[C:5]1[CH2:6][CH2:7][CH:8]3[CH:9]2[CH2:11][CH2:12][C:13]4([CH3:18])[CH:14]3[CH2:15][CH2:16][CH:17]4[CH:20]([CH3:21])[CH2:22][CH2:23][CH2:24][O:26][Si:27]([CH3:28])([CH3:29])[CH3:30]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_a_enone_ion_124", "mapped_smiles": "[CH3:19][CH:10]1[CH2:1][CH2:2][C:3](=[O+:25])[CH2:4][C:5]1=[CH2:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "cd_ring_diene_neutral", "mapped_smiles": "[CH2:7]=[C:8]1[CH:9]=[CH:11][CH2:12][C:13]2([CH3:18])[CH:17]([CH:20]([CH3:21])[CH2:22][CH2:23][CH2:24][O:26][Si:27]([CH3:28])([CH3:29])[CH3:30])[CH2:16][CH2:15][CH:14]12", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["steroid_tms_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["ring_a_enone_ion_124", "cd_ring_diene_neutral"]}], "steps": [{"step_id": "step_ring_b_cleavage_double_h_transfer", "from_state": "state_precursor", "to_state": "state_products", "step_class": "double_hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [9, 10]}, "target": {"type": "bond", "atom_maps": [9, 11]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [11]}, "target": {"type": "atom", "atom_maps": [10]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_b_cleavage_double_h_transfer", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.115", "figure": null, "panel": "left-hand product of the single reaction arrow, labelled 'm/z 124, 100%'", "section": "8.11 Other rearrangements"}, "confidence": 0.5, "curator_note": "ARCS ACTUALLY DRAWN: ZERO. Equation 8.115 is drawn as one plain reaction arrow from the steroid to two products joined by the word 'and'; no curved arrow, fishhook or reaction-type label appears anywhere on it, and no intermediate is drawn. All five moves encoded here are therefore CURATOR-CONSTRUCTED to balance the transformation the book asserts; none is drawn. SUBSTRATE READ FROM THE DRAWING: a 4-en-3-one steroid (ring A labelled 'A', C3=O, C4=C5, angular methyls at C10 and C13) whose side chain is CH(CH3)-CH2-CH2-CH2-OSi(CH3)3, i.e. the TMS ether of a 24-hydroxy-cholan-4-en-3-one (C27H46O2Si, M+. m/z 430.33). The charge and odd electron are localised on the ring-A carbonyl oxygen (n-ionisation, convention B), which is exactly where the book prints '+.' on the product. PRODUCT READ FROM THE DRAWING: a cyclohexanone ring labelled 'A' carrying (i) '+.' on the carbonyl oxygen, (ii) a methyl on the ring carbon adjacent to (iii) an exocyclic =CH2; no ring C=C is drawn. That is C8H12O+. = ring A + C19 + C6, m/z 124.088, and it carries TWO more hydrogens than the corresponding piece of the intact steroid (C4 becomes CH2, C10 becomes CH), so the drawn ion REQUIRES a double hydrogen transfer. WHAT IS CURATOR-ASSIGNED: the two H donors. The book gives no labelling data and draws no arrows, so C8 (-> C4) and C11 (-> C10) were chosen because they are the only donors that (a) make the first transfer a proper 6-centre retro-ene through the existing bond framework C4=C5-C6-C7-C8-H, and (b) leave a closed-shell neutral. Moves 1-3 are that retro-ene (C4=C5 pi -> C5=C6; C6-C7 sigma -> C7=C8; C8-H -> C4-H); moves 4-5 are the 4-centre beta-hydrogen transfer that severs C9-C10 (C9-C10 sigma -> C9=C11; C11-H -> C10-H). ENCODING OF THE HYDROGEN TRANSFERS: hydrogens are implicit in the mapped SMILES (RDKit's parser deletes mapped [H] atoms, so an H cannot carry an atom map here), so each hydrogen shift is encoded as a two-electron atom->atom move from the donor heavy atom to the acceptor heavy atom - the convention already used in this corpus, e.g. IMS4-EQ4.33. The heavy-atom bond ledger is complete on its own: every sigma/pi bond that changes order is accounted for by a bond->bond move.The neutral that results, C19H34OSi with C7=C8 and C9=C11, is NOT drawn by the book. PRECURSOR CHARGE STATE IS NOT DRAWN (disclosed): the substrate is printed as a NEUTRAL molecule -- no bracket, no '+.' anywhere on it (re-checked on the native scan of printed p. 219); only the two PRODUCTS carry '+.'. The precursor's ionisation site is therefore a curator localisation carried back from the drawn product, not something the page draws. BOOK-ASSERTED INTERMEDIATE, DELIBERATELY NOT ENCODED: the running text on printed p. 218 states verbatim 'the long-range rearrangement of Equation 8.115 proceeds through an ion-molecule complex and gives rise to a base peak of the spectrum (Longevialle 1987)' (quotation verified on the scan). This record encodes the single concerted step the page DRAWS; the ion-molecule complex is asserted only in prose, with no structure drawn for it, so it is left unencoded -- and the Longevialle 1987 attribution, previously missing, is recorded here."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 430.3262, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_124", "species_id": "ring_a_enone_ion_124", "step_id": "step_ring_b_cleavage_double_h_transfer", "observed_mz": 124.0883, "relative_intensity": 1.0, "hydrogen_shift": 2, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
